US08030305B2
Difluoro-quinolin-6-yl-acetic acid hydrazide
To a solution of difluoro-quinolin-6-acetic acid methyl acetate (670 mg, 2.83 mmol) in methanol (20 mL) was added anhydrous hydrazine (2 mL). The mixture heated to reflux for 2 h, cooled to room temperature, concentrated and dried in high vacuum to give a light orange solid (680 mg, 100%). 1H-NMR (DMSO): δ 9.02-9.01 (1H, dd, J=1.7 Hz), 8.56-8.54 (1H, d, J=9.3 Hz), 8.28 (1H, s), 8.17-8.15 (1H, d, J=8.8 Hz), 7.91-7.88 (1H, dd, J=2.0, 2.0 Hz), 7.66-7.63 (1H, q, J=4.0 Hz).

reactant | difluoro-quinolin-6-acetic acid methyl acetate | 2.83 mmol, 670 mg | COC(C)=O.FC(C(=O)O)(C=1C=C2C=CC=NC2=CC1)F
reactant | hydrazine | 2 mL | NN | H4N2
solvent | methanol | 20 mL | CO | CH4O
product | Difluoro-quinolin-6-yl-acetic acid hydrazide | 680 mg, 100% | FC(C(=O)NN)(C=1C=C2C=CC=NC2=CC1)F | C11H9F2N3O
